US07652049B2
To a solution of 1-[(benzyloxy)methyl]-1H-imidazole (706 mg, 3.75 mmol) in THF (4 mL) at −78° C. under N2, was added n-Butyllithium (2.3 mL of a 1.6 M solution in hexanes). The mixture was stirred at −78° C. for 30 min. To a solution of benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate (200 mg, 0.75 mmol) in THF (2 mL) under N2 at −15° C., was added isopropylmagnesium chloride (375 μL of a 2.0 M solution in THF). The resulting mixture was stirred at −15° C. for 15 min. This mixture was then added, by cannula to the solution above at −78° C. The mixture stirred at −78° C. for about 3 h, then warmed up gradually to room temperature and stirred overnight. The mixture was quenched with saturated NH4Cl. The aqueous layer was extracted with CH2Cl2 (3×25 mL). The organic layers were combined, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography to afford benzyl ((1S)-2-{1-[(benzyloxy)methyl]-1H-imidazol-2-yl}-1-methyl-2-oxoethyl)carbamate contaminated with about 30% of the unreacted starting material benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate. The mixture was carried forward to the next step without further purification. LCMS calc.=394.18; found=394.2 (M+1)+.

reactant | 1-[(benzyloxy)methyl]-1H-imidazole | 3.75 mmol, 706 mg | C(C1=CC=CC=C1)OCN1C=NC=C1 | C11H12N2O
reactant | n-Butyllithium | C(CCC)[Li]
reactant | benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate | 0.75 mmol, 200 mg | CON(C([C@H](C)NC(OCC1=CC=CC=C1)=O)=O)C | C13H18N2O4
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | benzyl ((1S)-2-{1-[(benzyloxy)methyl]-1H-imidazol-2-yl}-1-methyl-2-oxoethyl)carbamate | C(C1=CC=CC=C1)OCN1C(=NC=C1)C([C@H](C)NC(OCC1=CC=CC=C1)=O)=O | C22H23N3O4
